US04235930
(5Z,13E)-(15S)-15-Hydroxy-9-oxo-5,13-prostadien-18-ynoic Acid
320 mg. of (5Z,13E)-(15S)-9-oxo-15-(tetrahydropyran-2-yloxy)-5,13-prostadien-18-ynoic acid is agitated for 16 hours at room temperature with 8 ml. of a mixture of glacial acetic acid/water/THF (65/35/10), then evaporated under vacuum, and the residue purified by column chromatography on silica gel. With methylene chloride/5% methanol, 210 mg. of the title compound is obtained as a colorless oil.

reactant | (5Z,13E)-(15S)-9-oxo-15-(tetrahydropyran-2-yloxy)-5,13-prostadien-18-ynoic acid | O=C1[C@H](C\C=C/CCCC(=O)O)[C@H](CC1)\C=C\[C@H](CCC#CC)OC1OCCCC1 | C25H36O5
solvent | acetic acid water THF | C(C)(=O)O.O.C1CCOC1
product | (5Z,13E)-(15S)-15-Hydroxy-9-oxo-5,13-prostadien-18-ynoic Acid | O[C@H](/C=C/[C@H]1CCC([C@@H]1C\C=C/CCCC(=O)O)=O)CCC#CC | C20H28O4
